US08114893B2
Step 1: Preparation of 3-(4-(dimethylamino)phenyl)propan-1-ol (48A)
LiAlH4 (0.066 g, 1.71 mmol) was added to a solution of 4-(dimethylamino)cinnamaldehyde (0.10 g, 0.57 mmol) in anhydrous THF (2 mL). The reaction mixture was heated at reflux for 2 hours and cooled to rt. To the reaction mixture was added 1M HCl dropwise. The reaction mixture was stirred for 5 minutes before saturated NaHCO3 was added and the mixture was extracted with DCM. The organic phases were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by column chromatography on silica gel eluting with a gradient of PE:EtOAc 2:1 to provide the desired product 3-(4-(dimethylamino)phenyl)propan-1-ol (48A).

reactant | LiAlH4 | 1.71 mmol, 0.066 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(dimethylamino)cinnamaldehyde | 0.57 mmol, 0.10 g | CN(C1=CC=C(C=CC=O)C=C1)C | C11H13NO
reactant | HCl | 1M | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(4-(dimethylamino)phenyl)propan-1-ol | CN(C1=CC=C(C=C1)CCCO)C | C11H17NO
